US08729203B2
(c) Synthesis of 2-(2-phenylpropan-2-ylthio)ethyl acrylate (4) [via non-aqueous Schotten-Baumann esterification]
2-(2-Phenylpropan-2-ylthio)ethanol (45.0 g, 229 mmol) was weighed into a 1 L 3-neck round-bottomed flask which was then attached to a 125 mL pressure-equalising funnel (centre-socket), a Suba-seal (side-arm) and a double layer coil condenser (side-arm) which was connected in turn to a nitrogen-vacuum manifold. The apparatus was then purge-filled with nitrogen three times. Dichloromethane (anhydrous, 300 mL) was then cannula transferred into the reaction flask. DIPEA (anhydrous, 60 mL) was then added to the reaction solution using a 20 mL gastight syringe (3×20 mL transfers). Freshly distilled acryloyl chloride (22.35 mL) was then placed in the pressure-equalising addition funnel. The reaction flask was then surrounded with a dry-ice/acetone cooling bath and the reaction mixture cooled to a temperature of −77° C. The acryloyl chloride was then added slowly dropwise to the chilled reaction mixture under nitrogen over a period of 90 minutes (ca. 1 drop every 2 seconds). The reaction mixture was then stirred in the cooling bath under nitrogen overnight and allowed to warm slowly to room temperature. Next day the reaction flask was surrounded with a water/ice cooling bath and methanol (50 mL) was added to the pressure-equalising addition funnel. The reaction mixture was cooled to <5° C. and the methanol then added dropwise over a period of 30 minutes in order to quench the excess acryloyl chloride. The reaction mixture was then allowed to warm to room temperature before being extracted with 1×300 mL portion of 1M HCl (aq) and 2×300 mL portions of brine. The organic layer was then partitioned and separated and then dried over anhydrous magnesium sulfate for a period of 1 hour. The drying mixture was then filtered and the collected solid washed with 3×40 mL portions of dichloromethane. The filtrate and washings were combined and then CAREFULLY stripped to dryness in vacuo (rotary evaporator) at a bath temperature of 25° C. The resultant orange liquid (with a small quantity of white “gel-like” material on the walls of the evaporation flask, presumably polymer) was distilled in vacuo through a Claisen head with a spatula measure of 5,5′,6,6′-tetrahydroxy-3,3,3′,3′-tetramethyl-1,1′-spirobisindane inhibitor added to the distillation mixture.

reactant | 2-(2-Phenylpropan-2-ylthio)ethanol | 229 mmol, 45.0 g | C1(=CC=CC=C1)C(C)(C)SCCO | C11H16OS
reactant | Dichloromethane | 300 mL | ClCCl | CH2Cl2
reactant | DIPEA | 60 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | acryloyl chloride | 22.35 mL | C(C=C)(=O)Cl | C3H3ClO
solvent | methanol | CO | CH4O
solvent | methanol | 50 mL | CO | CH4O
product | 2-(2-phenylpropan-2-ylthio)ethyl acrylate | C(C=C)(=O)OCCSC(C)(C)C1=CC=CC=C1 | C14H18O2S
